* Z:\home\hernan\Documents\UTN\2025\Fisica\fotodiodo-project\spice\sim.asc
XU1 N005 N001 VCC 0 N002 OPAx134
XU2 N006 N003 VCC 0 output OPAx134
V1 VCC 0 9V
R1 N005 VCC 4.7k
R2 0 N005 15k
R3 N002 N001 10Meg
C4 N002 N001 5p
C5 VCC 0 47µ
I1 0 N001 80µ
C1 N001 0 72p
I2 0 N001 80µ
C2 N001 0 72p
I3 0 N001 80µ
C3 N001 0 72p
I4 0 N001 80µ
C6 N001 0 72p
C7 N004 N002 100n
R4 N003 N004 1k
R5 output N003 100k
C8 output N003 10p
R6 N006 VCC 10k
R7 0 N006 10k
C10 VCC 0 47µ
.op
.LIB sbom042f/OPAx134.LIB
.backanno
.end
